US08067408B2
1,1-Dimethylethyl [(3-bromo-2-methylphenyl)methyl]carbamate
[(3-Bromo-2-methylphenyl)methyl]amine (4.0 g, 17.0 mmol) was suspended in CH2Cl2 (50 mL), then sodium carbonate (4.8 g, 45.3 mmol) was added. After stirred for 15 min, the solution of Boc2O (4.0 g, 18.3 mmol) in CH2Cl2 (20 mL) was added, and then the mixture was stirred overnight. After the solvent was removed, the residue was dissolved in CH2Cl2 (40 mL). The solution was washed with water (15 mL), brine (15 mL) and dried over anhydrous Na2SO4. After silica column chromatography, (eluted with petroleum ether:EtOAc=20:1 to 5:1), 1.3 g of the product, 1,1-dimethylethyl [(3-bromo-2-methylphenyl)methyl]carbamate, was obtained. Yield: 35%. 1H NMR (400 MHz, CDCl3): δ 1.45 (s, 9 H), 2.40 (s, 3 H), 4.34 (d, J=6.0 Hz, 2 H), 4.71 (br, 1 H), 7.02 (t, J=8.0 Hz, 1 H), 7.19 (d, J=7.6 Hz, 1 H), 7.48 (dd, J=7.8 Hz, J=0.6 Hz, 1 H).

reactant | [(3-Bromo-2-methylphenyl)methyl]amine | 17.0 mmol, 4.0 g | BrC=1C(=C(C=CC1)CN)C | C8H10BrN
reactant | sodium carbonate | 45.3 mmol, 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Boc2O | 18.3 mmol, 4.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl [(3-bromo-2-methylphenyl)methyl]carbamate | Yield: 35% | BrC=1C(=C(C=CC1)CNC(OC(C)(C)C)=O)C | C13H18BrNO2
